US05075326
7.0 g (0.051 mol) of anhydrous potassium carbonate are added to a solution of 12.0 g (0.06 mol) of 2,4-dichloro-5-nitrothiazole in 50 ml of acetonitrile. A mixture of 5.35 g (0.05 mol) of benzylamine and 50 ml of acetonitrile is then added dropwise at 15° C. to 20° C. in the course of about half an hour and the mixture is subsequently stirred at room temperature for a further hour. It is then heated at the reflux temperature for 15 minutes, cooled to room temperature and stirred into about 500 ml of ice-water and the precipitate is filtered off, washed with water and dried. To remove excess 2,4-dichloro-5-nitrothiazole, the product is stirred into 80 ml of petroleum ether at room temperature, filtered off, washed with petroleum ether and dried. 12.9 g (95.7% of theory) of 2-benzylamino-4-chloro-5-nitrothiazole of melting point 195° C. to 196° C. (decomposition) are obtained.

reactant | potassium carbonate | 0.051 mol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichloro-5-nitrothiazole | 0.06 mol, 12.0 g | ClC=1SC(=C(N1)Cl)[N+](=O)[O-] | C3Cl2N2O2S
reactant | benzylamine | 0.05 mol, 5.35 g | C(C1=CC=CC=C1)N | C7H9N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-benzylamino-4-chloro-5-nitrothiazole | 12.9 g, 95.7% | C(C1=CC=CC=C1)NC=1SC(=C(N1)Cl)[N+](=O)[O-] | C10H8ClN3O2S
